US07829560B2
t-Butyl-{1-[4-({4-[(3-fluoro-5-morpholin-4-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperidin-4-yl}-carbamate (Compound B366).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and piperidin-4-yl-carbamic acid t-butyl ester according to conditions described in general procedure C. Mp: 214-216° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.33-1.41 (m, 14 H), 2.47-3.41 (m, 4H), 3.25-3.28 (m, 4H), 3.75-3.78 (m, 4 H), 4.20 (s, 1 H), 6.20 (d, J=5.5 Hz, 1H), 6.77-6.79 (m, 1 H), 7.00-7.05 (m, 1H), 7.18-7.26 (m, 1H), 7.38-7.63 (m, 5H), 7.85 (d, J=9.2 Hz, 1H), 8.00 (d, J=8.4 Hz, 1H), 8.26 (d, J=5.5 Hz, 1H), 10.47 (s, 1H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | piperidin-4-yl-carbamic acid t-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
product | t-Butyl-{1-[4-({4-[(3-fluoro-5-morpholin-4-ylbenzoyl)amino]-1-naphthyl}oxy)pyrimidin-2-yl]piperidin-4-yl}-carbamate | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)=O | C35H39FN6O5
